US07138413B1
N-Cyclohexyl-N′-(1-pyrrolidinyl-3-propyl)urea
In an argon atmosphere 10 mmol of cyclohexylisocyanate was added slowly to 10 mmol of 1-(3-aminopropyl)pyrrolidine in 10 ml of acetonitrile. The product preci-pitated instantly as a pure white solid. The solvent was removed under reduced pressure and the product was crystallized with oxalic acid from diethyl ether/ethanol.

reactant | cyclohexylisocyanate | C1(CCCCC1)N=C=O | C7H11NO
reactant | 1-(3-aminopropyl)pyrrolidine | 10 mmol | NCCCN1CCCC1 | C7H16N2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | N-Cyclohexyl-N′-(1-pyrrolidinyl-3-propyl)urea | C1(CCCCC1)NC(=O)NCCCN1CCCC1 | C14H27N3O
